US06887889B2
A solution of 3,4-difluorophenyl isocyanate (2 g, 10.55 mmol) in t-BuOH (50 mL) was heated at 80° C. for 16 h. The mixture was concentrated by rotary evaporation to give a white solid which was triturated with toluene and evaporated to dryness. Addition of toluene (20 mL) and concentration under vacuum gave (3,4-difluorophenyl)-carbamic acid-tert-butyl ester as a white solid (2.43 g, 100%).

reactant | 3,4-difluorophenyl isocyanate | 10.55 mmol, 2 g | FC=1C=C(C=CC1F)N=C=O | C7H3F2NO
reactant | t-BuOH | 50 mL | CC(C)(C)O | C4H10O
product | (3,4-difluorophenyl)-carbamic acid-tert-butyl ester | 2.43 g, 100% | C(C)(C)(C)OC(NC1=CC(=C(C=C1)F)F)=O | C11H13F2NO2
